US07354924B2
Example 5, was prepared according to the general method described above from 1-benzoyl-3-methyl-4-[(7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine and 3,4-methylenedioxyphenyl boronic acid, Precursor 14a-13, to provide 1-benzoyl-3-methyl-4-[(7-(3,4-methylenedioxyphenyl)-6-azaindol-3-yl)-oxoacetyl]piperazine. MS m/z: (M+H)+ Calc'd for C28H25N4O5: 497.18; found 497.03. HPLC retention time: 1.41 minutes (column B).

reactant | 1-benzoyl-3-methyl-4-[(7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine | C(C1=CC=CC=C1)(=O)N1CC(N(CC1)C(C(=O)C1=CNC2=C(N=CC=C12)Cl)=O)C | C21H19ClN4O3
reactant | 3,4-methylenedioxyphenyl boronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
product | 1-benzoyl-3-methyl-4-[(7-(3,4-methylenedioxyphenyl)-6-azaindol-3-yl)-oxoacetyl]piperazine | C(C1=CC=CC=C1)(=O)N1CC(N(CC1)C(C(=O)C1=CNC2=C(N=CC=C12)C1=CC2=C(C=C1)OCO2)=O)C | C28H24N4O5
